US06194406B1
1-(2-Methylsulfinyl-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Combine 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine(R,R)-di-p-anisoyltartaric acid salt) (0.46 g, 1.0 mmol) and dichloromethane (20 mL). Add 2-methylsulfinyl-5-(1H-tetrazol-1-yl)benzoic acid (0.32 g, 1.3 mmol), 1-hydroxybenzotriazole hydrate (0.2 g, 1.5 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.29 g, 1.5 mmol), and N,N-diisopropylethylamine (0.34 mL, 2 mmol). After 18 hours, dilute the reaction mixture with ethyl acetate and extract with brine, dry the organic layer over MgSO4, filter, and concentrate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with ethyl acetate and then 10% methanol/ethyl acetate give the title compound.

reactant | 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt | 1.0 mmol, 0.46 g | Cl.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CCC2(CNCC2)C2=CC=CC=C2
reactant | 2-methylsulfinyl-5-(1H-tetrazol-1-yl)benzoic acid | 1.3 mmol, 0.32 g | CS(=O)C1=C(C(=O)O)C=C(C=C1)N1N=NN=C1 | C9H8N4O3S
reactant | 1-hydroxybenzotriazole hydrate | 1.5 mmol, 0.2 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.5 mmol, 0.29 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-diisopropylethylamine | 2 mmol, 0.34 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(2-Methylsulfinyl-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | CS(=O)C1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C=C1)N1N=NN=C1 | C37H45N9O3S
